US05965555
3-Butyl-1-(6-dipropylamino-3-hydroxy-3-methyl-4-hexynyl)-7-propylxanthine was prepared in 28% yield using 3-butyl-1-(3-oxobutyl)-7-propylxanthine and N,N-dipropyl-2-propynylamine as as in Example 6C1).

reactant | 3-butyl-1-(3-oxobutyl)-7-propylxanthine | C(CCC)N1C(N(C(C=2N(C=NC12)CCC)=O)CCC(C)=O)=O | C16H24N4O3
reactant | N,N-dipropyl-2-propynylamine | C(CC)N(CCC)CC#C | C9H17N
product | 3-Butyl-1-(6-dipropylamino-3-hydroxy-3-methyl-4-hexynyl)-7-propylxanthine | 28% yield | C(CCC)N1C(N(C(C=2N(C=NC12)CCC)=O)CCC(C#CCN(CCC)CCC)(C)O)=O | C25H41N5O3
